US07285557B2
4-[2-(3,3-Difluoropyrrolidin-1-yl)ethoxy]-3-methoxyaniline
3,3-Difluoro-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]pyrrolidine (0.173 g, 0.5728 mmol) was dissolved in EtOAc (5 mL). 10% Pd/C (0.017 g) was added. The reaction was stirred under 1 atm of H2. for 18 h. The mix was then filtered through celite and the celite washed with EtOAc (3×10 mL). The organics were concentrated to give 0.1389 g (0.5107 mmol, 89%) of the product as a red oil. 1H NMR (CDCl3) δ 6.73 (d, 1H, J=8.4 Hz), 6.29 (s, 1H), 6.19 (d, 1H, J=8.4 Hz), 4.02 (t, 2H, J=5.8 Hz), 3.80 (s, 3H0, 3.04 (t, 2H, J=13.4 Hz), 2.87 (m, 4H), 2.27 (m, 2H).

reactant | 3,3-Difluoro-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]pyrrolidine | 0.5728 mmol, 0.173 g | FC1(CN(CC1)CCOC1=C(C=C(C=C1)[N+](=O)[O-])OC)F | C13H16F2N2O4
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.017 g | [Pd] | Pd
product | 4-[2-(3,3-Difluoropyrrolidin-1-yl)ethoxy]-3-methoxyaniline | 0.5107 mmol, 0.1389 g, 89% | FC1(CN(CC1)CCOC1=C(C=C(N)C=C1)OC)F | C13H18F2N2O2
